US09447106B2
A mixture of (E)-4-(dimethylamino)but-2-enoic acid hydrochloride (147 mg, 0.88 mmol), HATU (611 mg, 1.6 mmol) and TEA (328 mg, 3.2 mmol) in 50 mL of DCM was stirred at RT for about 2 hr before 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide (300 mg, 0.8 mmol) was added. The mixture was stirred at RT overnight. TLC and LCMS analysis showed that starting material was consumed. To the reaction were added 100 mL of water and 50 mL of DCM. Aqueous phase was further extracted with 50 mL of DCM. The combined organic layers were washed with brine, dried over Na2SO4, concentrated to get crude product which was chromatographed on 5 g of silica gel using DCM/MeOH (20/1 to 10/1) as eluant to afford 145 mg (37%) of (E)-7-(4-(dimethylamino) but-2-enoyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide, which was dried by lyophilization. 1H NMR (400 MHz, DMSO-d6 at 80° C.) δ 11.52 (s, 1H), 7.69 (d, J=8.6 Hz, 2H), 7.42 (d, J=7.6 Hz, 1H), 7.41 (d, J=7.6 Hz, 1H), 7.16 (t, J=7.6 Hz, 1H), 7.12-6.99 (m, 4H), 6.78-6.56 (m, 2H), 6.22 (s, 2H), 4.75 (s, 2H), 3.89 (t, J=5.6 Hz, 2H), 3.12 (d, J=5.6 Hz, 2H), 2.80-2.72 (m, 2H), 2.22 (s, 6H). MS (ESI) m/e [M+1]+ 484.9.

reactant | (E)-4-(dimethylamino)but-2-enoic acid hydrochloride | 0.88 mmol, 147 mg | Cl.CN(C/C=C/C(=O)O)C
reactant | HATU | 1.6 mmol, 611 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide | 0.8 mmol, 300 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN2C(NC3=C2CNCC3)=C1C(=O)N | C21H19N5O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (E)-7-(4-(dimethylamino) but-2-enoyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide | 145 mg, 37% | CN(C/C=C/C(=O)N1CC2=C(CC1)NC=1N2N=C(C1C(=O)N)C1=CC=C(C=C1)OC1=CC=CC=C1)C | C27H28N6O3
